US07176242B2
Step 5: Methyl 4-butyl-1,2,3,4-tetrahydroquinoxaline-6-carboxylate
To an ice-cold, stirred solution of methyl 4-butyl-3-oxo-1,2,3,4-tetrahydroquinoxaline-6-carboxylate (840 mg) in tetrahydrofuran (32 mL) was added borane dimethylsulfide complex (3.2 mL, 2.0 M tetrahydrofuran) and the resulting mixture was refluxed for 24 h. The mixture was cooled to room temperature, quenched with methanol, and the solvent was removed under reduced pressure. Purification by flash column chromatography (silica, 1:1 ethyl acetate/hexanes) provided 364 mg of the title compound: 1H NMR (300 MHz, CDCl3) δ 7.27, 7.22, 6.41, 3.84, 3.47–3.45, 3.32–3.23, 1.60–1.58, 1.42–1.37, 0.99–0.94.

reactant | methyl 4-butyl-3-oxo-1,2,3,4-tetrahydroquinoxaline-6-carboxylate | 840 mg | C(CCC)N1C(CNC2=CC=C(C=C12)C(=O)OC)=O | C14H18N2O3
reactant | borane dimethylsulfide | 2.0 M, 3.2 mL | CSC.B
solvent | tetrahydrofuran | 32 mL | O1CCCC1 | C4H8O
product | Methyl 4-butyl-1,2,3,4-tetrahydroquinoxaline-6-carboxylate | 364 mg | C(CCC)N1CCNC2=CC=C(C=C12)C(=O)OC | C14H20N2O2
